US05977178
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (373 mg, 1.13 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). 1-Hydroxy-7-azabenzotriazole (153 mg, 1.13 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (217 mg, 1.13 mmol) was added. The reaction mixture was stirred for 10 min at 0° C. 1,1-Dimethyl-2-((2R)-2-methylamino-3-phenylpropionylamino)-ethyl acetate (301 mg, 1.03 mmol) was dissolved in dichloromethane (2 ml) and added. Ethyldiisopropylamine (0.18 ml, 1.03 mmol) was added. The reaction mixture was stirred for 20 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with 1N hydrochloric acid. The aqueous phase was extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (85 g), using ethyl acetate/heptane (1:1) as eluent, to give 547 mg of 2-((2R)-2-(N-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 1.13 mmol, 373 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 1.13 mmol, 153 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.13 mmol, 217 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1,1-Dimethyl-2-((2R)-2-methylamino-3-phenylpropionylamino)-ethyl acetate | 1.03 mmol, 301 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)NC)=O)(C)C | C16H24N2O3
reactant | Ethyldiisopropylamine | 1.03 mmol, 0.18 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-((2R)-2-(N-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate | 547 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OC(C)(C)C)=O)=O)(C)C | C35H45N3O6
